* CDL netlist for INV_N4_P6 (resized)
.SUBCKT INV_N4_P6 VDD VSS IN OUT
MN0 OUT IN VSS VSS nmos_finfet nfin=4 l=20n
MP0 OUT IN VDD VDD pmos_finfet nfin=6 l=20n
.ENDS INV_N4_P6
